US05284828
A solution of N-phenylacetyl-L-Leu-OBzl (14 g) in methanol (140 ml) was hydrogenated over 10% palladium on carbon (1.4 g) at 3 atmospheric pressure of hydrogen for 2 hours. After removal of the catalyst by filtration, the filtrate was concentrated in vacuo. The residue was triturated with diisopropyl ether to give N-phenylacetyl-L-Leu-OH (7.7 g).

reactant | N-phenylacetyl-L-Leu-OBzl | 14 g | N([C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C21H25NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 140 ml | CO | CH4O
catalyst | palladium on carbon | 1.4 g | [Pd] | Pd
product | N-phenylacetyl-L-Leu-OH | 7.7 g | N([C@@H](CC(C)C)C(=O)O)C(=O)CC1=CC=CC=C1 | C14H19NO3
